US09034880B2
Preparation of 2-(1,2,3,4-tetrahydro-2,8-dimethylpyrido[4,3-b]indol-5-yl)-1-(piperidin-1-yl)ethanone (Compound 395)
2-(2,8-dimethyl-3,4-dihydro-1H-pyrido[4,3-b]indol-5(2H)-yl) acetic acid (1.5 g, 5.8 mmol) was taken in dichloromethane (15 mL) and was cooled to 0° C. using an ice-bath; oxalyl chloride (0.61 mL, 6.9 mmol) was added drop-wise, catalytic amount (2 drop) of dimethyl formamide was added to the reaction mixture. After the addition, reaction mixture was stirred for 1 h at room temperature. Excess oxalyl chloride was distilled away under reduced pressure. To this residue, solution of Piperidine (0.68 mL, 6.9 mmol) in 4 mL DCM and DMAP (0.71 g, 5.8 mmol) was added under nitrogen at room temperature and reaction mass was stirred for 0.5 h at room temperature. The reaction mixture was quenched by ice water and extracted with Dichloromethane and purified by column chromatography to gives 0.8 g of desired compound as free base. The free base was converted into HCl salt by treatment with ethanolic HCl. Sodium hydride (0.8 g, 20 mmol) washed with hexane for removal of oil and dried under vacuum. Then sodium hydride was taken in THF. To this solution 2,8-dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (2 g, 10 mmol) in THF was added drop wise at 0° C. Then reaction mixture stirred for 0.5 h. The solution of 2-chloro-1-(piperidin-1-yl)ethanone (1.9 g, 12 mmol) in THF was added drop wise in react ion mixture. Then reaction mixture stirred at RT for 2 h. Reaction monitored by TLC. After completion of reaction, reaction mixture quench with ice-water. THF was evaporated and aqueous layer was extracted with ethyl acetate. Organic layer was dried over anhydrous sodium sulphate. The crude compound was washed with hexane and diethyl ether for removal of color impurities then recrystallized by using methanol to give 1 g of desired compound then it was stirred with ethanolic HCl to give HCl salt of 2-(2,8-dimethyl-3,4-dihydro-1H-pyrido[4,3-b]indol-5(2H)-yl)-1-(piperidin-1-yl)ethanone.

reactant | HCl | Cl | ClH
reactant | Sodium hydride | 20 mmol, 0.8 g | [H-].[Na+]
reactant | 2,8-dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 10 mmol, 2 g | CN1CC2=C(NC=3C=CC(=CC23)C)CC1 | C13H16N2
reactant | 2-chloro-1-(piperidin-1-yl)ethanone | 12 mmol, 1.9 g | ClCC(=O)N1CCCCC1 | C7H12ClNO
solvent | hexane | CCCCCC | C6H14
solvent | THF | C1CCOC1 | C4H8O
product | 2-(1,2,3,4-tetrahydro-2,8-dimethylpyrido[4,3-b]indol-5-yl)-1-(piperidin-1-yl)ethanone | 1 g | CN1CC2=C(N(C=3C=CC(=CC23)C)CC(=O)N2CCCCC2)CC1 | C20H27N3O
